### PR TITLE
feat(ir): add OperationPtr.getOpOperands

### LINKED ISSUE #663: Add `OperationPtr.getOperands`
This should look like `OperationPtr.getOpResults`

### PR DESCRIPTION
**Pull request by sueszli**
Closes https://github.com/opencompl/veir/issues/663

Same structure as https://github.com/opencompl/veir/pull/955

### CODE REVIEW

File: Veir/IR/Basic.lean [hunk 1]
```diff
@@ -490,6 +490,54 @@ theorem getOperands!.getElem_eq_getOperand! {op : OperationPtr} {h} :
     (op.getOperands! ctx)[index]'h = op.getOperand! ctx index := by
   grind [getOperands!, getOperand!]
 
+def getOpOperands (op : OperationPtr) (ctx : IRContext OpInfo)
+  (inBounds : op.InBounds ctx := by grind) : Array OpOperandPtr :=
+  Array.map (fun i => op.getOpOperand i) (Array.range (op.getNumOperands ctx inBounds))
```
Comment (math-fehr) [inline Veir/IR/Basic.lean]:
```suggestion
def getOpOperands (op : OperationPtr) (ctx : IRContext OpInfo)
    (inBounds : op.InBounds ctx := by grind) : Array OpOperandPtr :=
  Array.map op.getOpOperand (Array.range (op.getNumOperands ctx inBounds))
```

File: Veir/IR/Basic.lean [hunk 2]
```diff
@@ -490,6 +490,54 @@ theorem getOperands!.getElem_eq_getOperand! {op : OperationPtr} {h} :
...
+
+def getOpOperands! (op : OperationPtr) (ctx : IRContext OpInfo) : Array OpOperandPtr :=
+  Array.map (fun i => op.getOpOperand i) (Array.range (op.getNumOperands! ctx))
```
Comment (math-fehr) [inline Veir/IR/Basic.lean]:
```suggestion
def getOpOperands! (op : OperationPtr) (ctx : IRContext OpInfo) : Array OpOperandPtr :=
  Array.map op.getOpOperand (Array.range (op.getNumOperands! ctx))
```

**Review by math-fehr — APPROVED** [review]
Nice, thanks a lot!

**Comment by sueszli** [comment]
Thanks for reviewing.

Makes sense, this is a lot cleaner.

**Comment by math-fehr** [comment]
Sorry about the delay btw!
I think there is a conflict with your other PR, once it's fixed I'll just merge this!

**Comment by sueszli** [comment]
> Sorry about the delay btw!

No worries @math-fehr

Very excited about my first ever Lean PR to be merged.

> I think there is a conflict with your other PR

I've resolved the conflict and patched a bug https://github.com/opencompl/veir/pull/956/commits/6d264843b4fbf5fd57a28e12dafe4794a5b435c2

**Comment by sueszli** [comment]
Awesome
